US05358946
5-(4,5-diphenyl-1H-imidazol-2-ylthio)-pentanoic acid (3.73 g, 10.58 retool) was dissolved in 40 mL dry dimethylformamide, and treated with solid hydroxybenzotriazole hydrate (1.77 g, 13.10 retool). Then, a 20 mL dimethylformamide solution of N,N-diethylethylenediamine (2.00 mL, 14.24 mmol) was added dropwise. The mixture was cooled to 0° C., and solid dicyclohexylcarbodiimide (2.81 g, 13.62 mmol) was added in small portions over 20 minutes. The mixture was allowed to slowly warm and stirred for 48 hours, then poured into 150 mL ethyl acetate. This mixture was washed with water (3×150 mL), and the water washings were back-extracted in sequence with ethyl acetate (150 mL). The organic phases were combined, dried over anhydrous sodium sulfate, and evaporated to afford a pale yellow oil. The oil was separated by flash chromatography (1:4 methanol-methylene chloride) to afford N-[2-(diethylamino)ethyl]-5-(4,5-diphenyl-1H-imidazol-2-ylthio)-pentanamide (3.77 g, 8.37 mmol, 79%). 1 H NMR (300 MHz, CDCl3): 7.56-7.49 (4H, m); 7.33-7.17 (6H, m); 6.91 (1H, br s); 3.16 (2H, br d, J=6 Hz); 2.97 (2H, t, J=7 Hz); 2.68-2.49 (6H, m); 2.29 (2H, t, J=6 Hz); 2.00-1.57 (4H, m); 1.02 (6H, t, J=7 Hz).

reactant | 5-(4,5-diphenyl-1H-imidazol-2-ylthio)-pentanoic acid | 3.73 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCC(=O)O | C20H20N2O2S
reactant | hydroxybenzotriazole hydrate | 1.77 g | O.OC1=CC=CC=2NN=NC21
reactant | N,N-diethylethylenediamine | 14.24 mmol, 2.00 mL | C(C)N(CCN)CC | C6H16N2
reactant | dicyclohexylcarbodiimide | 13.62 mmol, 2.81 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | N-[2-(diethylamino)ethyl]-5-(4,5-diphenyl-1H-imidazol-2-ylthio)-pentanamide | 8.37 mmol, 3.77 g, 79% | C(C)N(CCNC(CCCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O)CC | C26H34N4OS
